US05322835
Preparation of 3-[7-fluoro-4-(2-butenyl)-2H-1,4-benzoxazin-3(4H)-on-6-yl]-5-isopropylidene-1,3-oxazolidine- 2,4-dione (Compound No. 8)
To a solution of 3-[7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-5-isopropylidene-1,3-oxazolidine-2,4-dione (1.1 g), potassium carbonate (0.3 g) and potassium iodide (0.1 g) in N,N-dimethylformamide (50 ml), 1-bromo-2-butene (0.5 g) was added, followed by heating at 70° C. for 4 hours. The reaction mixture was allowed to cool, combined with water and extracted with ethyl acetate. The organic layer was purified by silica gel column chromatography to give Compound No. 8 (1.0 g).

reactant | 3-[7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-5-isopropylidene-1,3-oxazolidine-2,4-dione | 1.1 g | FC1=CC2=C(NC(CO2)=O)C=C1N1C(OC(C1=O)=C(C)C)=O | C14H11FN2O5
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
reactant | 1-bromo-2-butene | 0.5 g | BrCC=CC | C4H7Br
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[7-fluoro-4-(2-butenyl)-2H-1,4-benzoxazin-3(4H)-on-6-yl]-5-isopropylidene-1,3-oxazolidine- 2,4-dione | FC1=CC2=C(N(C(CO2)=O)CC=CC)C=C1N1C(OC(C1=O)=C(C)C)=O | C18H17FN2O5
